US05223498
A solution of N,N-bis(2-methyoxyethyl)benzene-1,2-diamine (7.5 g) in dioxane (10 ml) was added to a mixture of thiophosgene (4 ml) and water (60 ml) which had been cooled to 0° C. The temperature of the mixture was allowed to rise to ambient and the mixture was stirred for 4 hours. Ice water (50 ml) was added and the mixture extracted with ether (3×20 ml). The extract was washed with water (50 ml) and brine (50 ml), dried and evaporated to give a residue which was heated at 45° C. under vacuum (100 mm/Hg) to give 2-[bis(2-methoxyethyl)amino]phenyl isothiocyanate as an oil.

reactant | N,N-bis(2-methyoxyethyl)benzene-1,2-diamine | 7.5 g | COCCN(C=1C(=CC=CC1)N)CCOC | C12H20N2O2
reactant | thiophosgene | 4 ml | C(=S)(Cl)Cl | CCl2S
reactant | water | 60 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-[bis(2-methoxyethyl)amino]phenyl isothiocyanate | COCCN(C1=C(C=CC=C1)N=C=S)CCOC | C13H18N2O2S
